datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([Br:75])[CH:83]=[CH:82]1>>C1=CC=C([S:32]([C-:21]([CH2:20][CH:10]([N+:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([Br:75])[CH:83]=[CH:82]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC[O:62]/[C:11](=[CH:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)[O-:12]>>CC[O:62][C:11]([CH:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:61]/[C:11](=[C:10](\C)[C:72](=[O:73])[O:83]CC)[O-:12].O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:61][C:11]([C:10](C)([CH:20]([CH:21]=[CH:22][N:23]1C2=C(C=CC=C2)CC1C(=O)[O-])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.Cl[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](Cl)[CH:64]=[CH:63]3)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32].[N:10]1=[CH:11][N-:12][C:61]([N+:72](=[O:73])[O-:83])=[CH:62]1>>CC[O:33][C:31]([CH:20]([N:10]1[CH:11]=[N:12][C:61]([N+:72](=[O:73])[O-:83])=[CH:62]1)[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C[C:22]1=[C:21]([CH:20]([CH:10]([C:11]#[N:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].CO[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([O:10][CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"C[C:10](C)=[C:11]([O:12][Si:73](C)(C)C)[O:62]C.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>C[C:10](C)([C:11](=[O+:12][Si:73](C)(C)C)[O:62]C)[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH+:10]1[F:20] 10=20;20,21=21"
"C1CCN(C[C@@H]2CCC[NH:10]2)C1.CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23]>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[NH+:10]1CCC[C@H]1CN1CCCC1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)O1>>CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[CH2:20]C2C(C3=CC=CC=C3)[Pd-2:21]2([P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)OC2=CC=CC=C2)[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)OC2=CC=CC=C2)O1 10,11=10,20;12=11,12;20,21=21"
